US05451596
Cis-1-[4-(benzoxazol-2-yl)benzyloxy]-2-triphenylmethylaminocyclohexane (2.03 g; 3.6 mmol) in 200 ml ethanol is treated with ethanolic HCl to pH 4 and stirred for 24 hrs. at room temperature. The solution is concentrated in vacuo, treated with ether and a white solid which precipitates out is filtered, washed with dry ether and dried in vacuo to obtain cis-2-[(4-benzoxazol-2-yl)benzyloxy]cyclohexylamine hydrochloride (m.p. 280°-281° C. dec).

reactant | Cis-1-[4-(benzoxazol-2-yl)benzyloxy]-2-triphenylmethylaminocyclohexane | 3.6 mmol, 2.03 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CO[C@H]1[C@H](CCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C2 | C39H36N2O2
reactant | HCl | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | cis-2-[(4-benzoxazol-2-yl)benzyloxy]cyclohexylamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(CO[C@@H]1[C@@H](CCCC1)N)C=C2 | InChI=1S/C20H22N2O2.ClH/c21-16-5-1-3-7-18(16)23-13-14-9-11-15(12-10-14)20-22-17-6-2-4-8-19(17)24-20;/h2,4,6,8-12,16,18H,1,3,5,7,13,21H2;1H/t16-,18+;/m1./s1
